US07572809B2
Similar procedure as described in example 10 was used, starting from 4-methyl-phenol and (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-(1-p-tolyloxy-5-methyl-isoquinolin-3-yl)-amine. LC-MS m/e 345(MH+).

reactant | 4-methyl-phenol | CC1=CC=C(C=C1)O | C7H8O
reactant | (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)C)NC1=NNC(=C1)C | C14H13ClN4
product | (5-methyl-1H-pyrazol-3-yl)-(1-p-tolyloxy-5-methyl-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC(=C2C1)C)OC1=CC=C(C=C1)C | C21H20N4O
